US08754050B2
Step 3: Preparation of tert-butyl (3S)-3-{[(2S)-2-(2-{[2-({[(tert-butoxy)carbonyl]amino}methyl)-1,3-thiazol-4-yl]formamido}-2-methylpropanamido)-3-methylbutanoyl]oxy}pent-4-enoate
To a solution of 2-(2-((tert-butoxycarbonylamino) methyl)thiazole-4-carboxamido)-2-methylpropanoic acid (1.26 g, 3.67 mmole) in 10 mL Dimethylformamide was added HBTU(O-Benzotriazole-N,N,N′,N′-tetramethyl-uronium-hexafluoro-phosphate) (1.67 g, 4.40 mmole) and diisopropylethylamine (2.0 mL, 11.0 mmole). The resulting reaction mixture was stirred at room temperature for 10 minutes. (S)-tert-butyl 3-((S)-2-amino-3-methylbutanoyloxy)pent-4-enoate (1.0 g, 3.67 mmole) was added, and the resulting mixture was stirred overnight. Water and EtOAc were added and the layers were separated. The aqueous layer was extracted with EtOAc, the combined organic layer was dried over Na2SO4 and concentrated. It was purified by column chromatography, eluted with 1:1 Hex/EtOAc to get the desired product (2.1 g, 96% yield).

reactant | 2-(2-((tert-butoxycarbonylamino) methyl)thiazole-4-carboxamido)-2-methylpropanoic acid | 3.67 mmole, 1.26 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)NC(C(=O)O)(C)C | C14H21N3O5S
reactant | diisopropylethylamine | 11.0 mmole, 2.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-tert-butyl 3-((S)-2-amino-3-methylbutanoyloxy)pent-4-enoate | 3.67 mmole, 1.0 g | N[C@H](C(=O)O[C@@H](CC(=O)OC(C)(C)C)C=C)C(C)C | C14H25NO4
reactant | Water | O | H2O
solvent | Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (3S)-3-{[(2S)-2-(2-{[2-({[(tert-butoxy)carbonyl]amino}methyl)-1,3-thiazol-4-yl]formamido}-2-methylpropanamido)-3-methylbutanoyl]oxy}pent-4-enoate | 2.1 g, 96% yield | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)NC(C(=O)N[C@H](C(=O)O[C@@H](CC(=O)OC(C)(C)C)C=C)C(C)C)(C)C | C28H44N4O8S
